US07084231B2
Synthesis of bromo fluorene [M-10]
1.2 litters of propylene carbonate and 160 g (0.96 mol) of fluorene were put into a 2 litter 3-neck round-bottom flask equipped with a stirrer, a thermometer and a reflux condenser under an argon atmosphere, and the resulting mixture was heated to 80° C. so as to make completely dissolved. 179.9 g (1.01 mol) of N-bromosuccinimide was added portionwise to the reaction mixture, and the resultant was stirred at 80° C. for 10 hours. The reaction mixture was cooled down to room temperature to precipitate white solid. The solid was filtered, thoroughly washed with methanol, dried and then recrystallized from ethanol, to obtain white crystal, which was filtered and then sufficiently dried in a vacuum oven at 40° C. to give 160 g (yield: 60%) of the desired product, and its melting point was 102° C.–103° C.

reactant | fluorene | 0.96 mol, 160 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | N-bromosuccinimide | 1.01 mol, 179.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | propylene carbonate | C1(OCC(C)O1)=O | C4H6O3
product | bromo fluorene | 160 g, yield: 60% | BrC1=CC=CC=2C3=CC=CC=C3CC12 | C13H9Br
